US08222245B2
2-(Methyloxy)-5-[3-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1,2,4-oxadiazol-5-yl]benzonitrile hydrochloride
A solution of 1,1-dimethylethyl 7-{5-[3-cyano-4-(methyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 54) (280 mg, 0.627 mmol) in hydrochloric acid 4M solution in dioxane (5 ml, 20.00 mmol) and 1,4-dioxane (5 ml) was stirred at room temperature overnight. The reaction mixture was filtered and washed with dioxane (˜5 ml), and the solid dried under vacuum to yield the title compound (177 mg, 0.393 mmol, 62.7% yield) as an off white solid. δH (d6DMSO, 400 MHz): 8.99-9.31 (2H, m), 8.53 (1H, s), 8.46 (1H, d), 7.96 (1H, s), 7.93 (1H, d), 7.54 (1H, d), 7.46 (1H, d), 4.07 (3H, s), 3.09-3.31 (7H, m); MS (ES): C20H18N4O2 requires 346; found 347 [M+H]+.

reactant | 1,1-dimethylethyl 7-{5-[3-cyano-4-(methyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.627 mmol, 280 mg | C(#N)C=1C=C(C=CC1OC)C1=NC(=NO1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C25H26N4O4
reactant | dioxane | 20.00 mmol, 5 ml | O1CCOCC1 | C4H8O2
reactant | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 4M | Cl | ClH
product | 2-(Methyloxy)-5-[3-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1,2,4-oxadiazol-5-yl]benzonitrile hydrochloride | 0.393 mmol, 177 mg, 62.7% yield | Cl.COC1=C(C#N)C=C(C=C1)C1=NC(=NO1)C1=CC2=C(CCNCC2)C=C1 | InChI=1S/C20H18N4O2.ClH/c1-25-18-5-4-16(11-17(18)12-21)20-23-19(24-26-20)15-3-2-13-6-8-22-9-7-14(13)10-15;/h2-5,10-11,22H,6-9H2,1H3;1H
